US06583180B2
3-(allyloxy)-5-methylphenol
Orcinol and allyl iodide were processed as described in Example 88C to provide the title compound. MS (DCI) m/z 165 (M+H)+.

reactant | Orcinol | C1(=CC(O)=CC(C)=C1)O | C7H8O2
reactant | allyl iodide | C(C=C)I | C3H5I
product | 3-(allyloxy)-5-methylphenol | C(C=C)OC=1C=C(C=C(C1)C)O | C10H12O2
